US08247583B2
After adding p-toluene sulfonyl chloride (229 g (1.2 mol)), benzyltriethylammonium chloride (17.1 g (75 mmol)) and toluene (450 ml) to a glass flask of an inner volume of 2,000 ml equipped with a stirrer, a thermometer, a dropping funnel and a reflux condenser, while keeping the liquid temperature below 5° C., a 35% aqueous sodium hydroxide solution (200 g (1.75 mol)) was gradually added. While keeping the liquid temperature below 10° C., 3-ethyl-3-hydroxymethyloxetane (116.2 g (1.0 mol)) was dropwise added to perform the reaction at the same temperature for 1 hour and at room temperature for 5 hours. After the completion of the reaction, toluene (150 ml) and water (250 ml) were added to a reaction solution and a liquid separation was performed. After washing a resultant organic layer with water (250 ml) twice, a magnesium sulphate was added so that the organic layer was dried. After the completion of drying, the organic layer was filtered and a resultant filtrate was concentrated under reduced pressure to give, as a colorless liquid, 3-ethyl-3-p-toluene sulfonyloxymethyloxetane having a purity of 90% (a value measured by 1H-NMR) (285 g) (an isolated yield based on 3-ethyl-3-hydroxymethyloxetane standard: 95%).

reactant | p-toluene sulfonyl chloride | 1.2 mol, 229 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | toluene | 450 ml | C1(=CC=CC=C1)C | C7H8
reactant | sodium hydroxide | 1.75 mol, 200 g | [OH-].[Na+]
reactant | 3-ethyl-3-hydroxymethyloxetane | 1.0 mol, 116.2 g | C(C)C1(COC1)CO | C6H12O2
reactant | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
catalyst | benzyltriethylammonium chloride | 75 mmol, 17.1 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | water | 250 ml | O | H2O
product | 3-ethyl-3-p-toluene sulfonyloxymethyloxetane | C(C)C1(COC1)COS(=O)(=O)C1=CC=C(C=C1)C | C13H18O4S
